US07816387B2
3-[Methyl(methylsulfonyl)amino]-5-(2-oxo-4-phenylpyrrolidin-1-yl)benzoic acid
A mixture of methyl 3-[methyl(methylsulfonyl)amino]-5-(2-oxo-4-phenylpyrrolidin-1-yl)benzoate obtained in Reference Example 18 329 mg (0.32 mmol), 2N aqueous sodium hydroxide solution (0.5 mL), methanol (0.5 mL) and tetrahydrofuran (0.5 mL) was stirred at room temperature for 15 hours. The solvent was concentrated and the mixture was adjusted by adding 1N hydrochloric acid to pH=3 and the mixture was extracted with ethyl acetate. After drying of the mixture on magnesium sulfate, the solvent was evaporated to give 113 mg (0.291 mmol) of the title compound (yield: 91%).

reactant | methyl 3-[methyl(methylsulfonyl)amino]-5-(2-oxo-4-phenylpyrrolidin-1-yl)benzoate | CN(C=1C=C(C(=O)OC)C=C(C1)N1C(CC(C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C20H22N2O5S
reactant | sodium hydroxide | 2N, 0.5 mL | [OH-].[Na+]
reactant | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 3-[Methyl(methylsulfonyl)amino]-5-(2-oxo-4-phenylpyrrolidin-1-yl)benzoic acid | 0.291 mmol, 113 mg, yield: 91% | CN(C=1C=C(C(=O)O)C=C(C1)N1C(CC(C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C19H20N2O5S
